US08106064B2
(3-Dimethoxymethyl-5-methyl-phenyl)-acetonitrile (99):
A mixture of 1-bromomethyl-3-dimethoxymethyl-5-methyl-benzene (6 g, 23 mmol) and sodium cyanide (1.7 g, 34 mmol) in methanol (30 ml) and distilled water (15 ml) was refluxed for 1.5 hr. After cooling to room temperature, the mixture was evaporated in vacuo and the residue was dissolved in ether, washed with water, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was then purified by silica gel column chromatography (eluent, ether:hexanes (1:3)) to afford 2.46 g (52%) of a colorless oil 1H NMR (300 MHz, CDCl3) δ 2.37 (3H, s), 3.33 (6H, s), 3.71 (2H, s), 5.33 (1H, s), 7.12 (1H, s), 7.20 (1H, s), 7.22 (1H, s).

reactant | 1-bromomethyl-3-dimethoxymethyl-5-methyl-benzene | 23 mmol, 6 g | BrCC1=CC(=CC(=C1)C)C(OC)OC | C11H15BrO2
reactant | sodium cyanide | 34 mmol, 1.7 g | [C-]#N.[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (3-Dimethoxymethyl-5-methyl-phenyl)-acetonitrile | 2.46 g, 52% | COC(C=1C=C(C=C(C1)C)CC#N)OC | C12H15NO2
